US07384934B2
7-Chloro-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulen-10-ylamine hydrochloride
Stir in a 3 neck 12 L round bottom flask 2-(4-chloro-2-nitro-phenylamino)-5-methyl-thiophene-3-carbonitrile (204.9 g, 0.6976 mol, 1 equiv), 3 A EtOH (2 L), and 6N HCl (2 L) for 10 min. Charge to the slurry in one portion, tin (II) chloride (404.1 g, 2.131 mol, 3.06 equiv) and heat to gentle reflux at 85° C. for 3 hours. HPLC at 3 hours shows <0.4% starting material. Allow mixture to cool and stir overnight. During the workup there is a possibility of tin salts precipitating with the product, did not cool as in lab trial, Workup includes: filtering reaction mixture, rinsing with ambient 1:1 3A EtOH/6N HCl (2×500 mL), rinsing with DI water (2×50 mL), drying in vacuum oven at 60° C. for 2 days. Wt.=231.5 g, and anaylsis. Discard some very small amount of precipitate which appears in the filtrate. Tin Removal in Hot 1 N HCl involves placing 231.5 g of the yellow crude product in 22 L flask, adding 1 N HCl (11.6 L), heating to 95° C. and holding at that temperature for 1 hour, shuting off heat and allowing to cool with heating mantle in place overnight. The next morning the temperature is 29° C. Remove mantle and replace with water bath and cool to 22° C. and filter. Rinse flask and add to cake with 1 N HCl (4 L) and follow by DI water (4 L). Pull air through the cake for 10 minutes, place in vacuum oven at 60° C. for 40 hours (Note: Only 1 gram of weight was lost over the final 16 hours of drying time.) Dry weight of title compound is 200.4 g (95.7%). Perform tin analysis. NMR is consistent with product. HPLC showed 98.5%.

reactant | 2-(4-chloro-2-nitro-phenylamino)-5-methyl-thiophene-3-carbonitrile | 0.6976 mol, 204.9 g, 1 equiv | ClC1=CC(=C(C=C1)NC=1SC(=CC1C#N)C)[N+](=O)[O-] | C12H8ClN3O2S
reactant | HCl | 6N, 2 L | Cl | ClH
reactant | tin (II) chloride | 2.131 mol, 404.1 g, 3.06 equiv | [Sn](Cl)Cl
reactant | tin | [Sn] | Sn
solvent | EtOH | 2 L | CCO | C2H6O
product | 7-Chloro-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulen-10-ylamine hydrochloride | Cl.ClC1=CC2=C(NC=3SC(=CC3C(=N2)N)C)C=C1 | InChI=1S/C12H10ClN3S.ClH/c1-6-4-8-11(14)15-10-5-7(13)2-3-9(10)16-12(8)17-6;/h2-5,16H,1H3,(H2,14,15);1H
